US08609691B2
trans-4-(Isoquinolin-6-yloxy)-cyclohexylamine (15)
6.1 g (53 mmol) of 4-amino-cyclohexanol were dissolved in 50 ml of dimethyl acetamide and 4.24 g (106 mmol) of sodium hydride (60%) were added at room temperature. After the reaction mixture was stirred for 30 minutes under argon, a solution of 6.49 g (35.3 mmol) of 6-fluoro-isoquinoline hydrochloride was added and the mixture was stirred at room temperature overnight. For workup, the solvent was removed in vacuo and the residue was dissolved in dichloromethane and washed twice with water. The organic layer was separated, dried with magnesium sulfate and evaporated to yield 8.64 g of the crude product, which was used without further purification. Rt=0.77 min (Method B). Detected mass: 243.1 (M+H+).

reactant | 4-amino-cyclohexanol | 53 mmol, 6.1 g | NC1CCC(CC1)O | C6H13NO
reactant | sodium hydride | 106 mmol, 4.24 g | [H-].[Na+]
reactant | 6-fluoro-isoquinoline hydrochloride | 35.3 mmol, 6.49 g | Cl.FC=1C=C2C=CN=CC2=CC1
solvent | dimethyl acetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | trans-4-(Isoquinolin-6-yloxy)-cyclohexylamine | 8.64 g | C1=NC=CC2=CC(=CC=C12)O[C@@H]1CC[C@H](CC1)N | C15H18N2O
